US07994176B2
4-Bromo-2-cyclohexyl-N-(2,6-dichloro-4-methoxy-benzyl)-butyramide
Stir a mixture of triphenylphosphine (3.16 g, 12.06 mmol), bromine (1.91 g, 12.06) and methylene chloride (150 mL) at room temperature for 20 minutes. To the mixture, add a solution of imidazole (0.98 g, 14.48 mmol), 2-Cyclohexyl-N-(2,6-dichloro-4-methoxy-benzyl)-4-hydroxy-butyramide (4.5 g, 12.06 mmol) in methylene chloride (100 mL). Stir the reaction at room temperature for 3.5 hours. Wash the reaction with HCl (1 N), water and brine. After drying the organic layer over sodium sulfate, filter and concentrate under vacuum. Purify the residue by silica gel chromatography with 1:3 ethyl acetate/hexane to afford 2.5 g. of the title compound. MS (m/z): 436 (M+H)+.

reactant | triphenylphosphine | 12.06 mmol, 3.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 1.91 g | BrBr | Br2
reactant | imidazole | 14.48 mmol, 0.98 g | N1C=NC=C1 | C3H4N2
reactant | 2-Cyclohexyl-N-(2,6-dichloro-4-methoxy-benzyl)-4-hydroxy-butyramide | 12.06 mmol, 4.5 g | C1(CCCCC1)C(C(=O)NCC1=C(C=C(C=C1Cl)OC)Cl)CCO | C18H25Cl2NO3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2-cyclohexyl-N-(2,6-dichloro-4-methoxy-benzyl)-butyramide | BrCCC(C(=O)NCC1=C(C=C(C=C1Cl)OC)Cl)C1CCCCC1 | C18H24BrCl2NO2
